US09120781B2
To a solution of (3aS,4R,5R,6R,7aS)-4-(benzyloxy)-6-((benzyloxy)methyl)-5-hydroxyhexahydrobenzo[d]oxazol-2(3H)-one (60 mg, 0.16 mmol) in dry DCM (2 mL) under N2 at 0° C. was added methyl triflate (0.035 mL, 0.32 mmol) dropwise. The mixture was stirred at room temperature for 18 h, cooled to 0° C. and n-propylamine (0.131 mL, 1.6 mmol) was added. The mixture was further stirred at 0° C. for 5 h. The mixture was diluted with aqueous satd. NaHCO3 (15 mL) and extracted with DCM (2×15 mL). The extracts were dried (Na2SO4) and concentrated to give the crude product (75 mg). This was purified by silica gel chromatography, eluted with 92:6:2 DCM-MeOH—NH4OH to give the product (3aS,4R,5R,6R,7aS)-4-(benzyloxy)-6-((benzyloxy)methyl)-2-(propylamino)-3a,4,5,6,7,7a-hexahydrobenzo[d]oxazol-5-ol (21 mg, 30.6%). 1H NMR (600 MHz, CDCl3) δ 7.35-7.27 (m, 10H), 4.94 (d, J=11.6, 1H), 4.85 (m, 1H), 4.71 (d, J=8.2, 1H), 4.53 (s, 2H), 4.02 (t, J=6.8, 1H), 3.68 (m, 3H), 3.50 (t, J=6.4, 1H), 3.75 (m, 2H), 2.18-2.15 (dt, J=14.8, 3.0, 1H), 1.98-1.94 (m, 1H), 1.80-1.78 (m, 1H), 1.62-1.58 (m, 2H), 0.98 (t, J=7.2, 3H).

reactant | (3aS,4R,5R,6R,7aS)-4-(benzyloxy)-6-((benzyloxy)methyl)-5-hydroxyhexahydrobenzo[d]oxazol-2(3H)-one | 0.16 mmol, 60 mg | C(C1=CC=CC=C1)O[C@H]1[C@@H]([C@H](C[C@H]2[C@@H]1NC(O2)=O)COCC2=CC=CC=C2)O | C22H25NO5
reactant | methyl triflate | 0.32 mmol, 0.035 mL | O(S(=O)(=O)C(F)(F)F)C | C2H3F3O3S
reactant | n-propylamine | 1.6 mmol, 0.131 mL | C(CC)N | C3H9N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (3aS,4R,5R,6R,7aS)-4-(benzyloxy)-6-((benzyloxy)methyl)-2-(propylamino)-3a,4,5,6,7,7a-hexahydrobenzo[d]oxazol-5-ol | 21 mg, 30.6% | C(C1=CC=CC=C1)O[C@H]1[C@@H]([C@H](C[C@H]2[C@@H]1N=C(O2)NCCC)COCC2=CC=CC=C2)O | C25H32N2O4
